US07618975B2
(2-Chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-amine
The title compound was prepared from 2,4-dichloroquinazoline and 2,4-dimethoxyaniline by a procedure similar to example 28 (92% yield). 1H NMR (CDCl3): 8.59 (d, J=8.7 Hz, 1H), 8.22 (s, broad, 1H), 7.75-7.81 (m, 3H), 7.52 (ddd, J=8.4, 6.6 and 2.1 Hz, 1H), 6.52-6.59 (m, 2H), 3.95 (s, 3H), 3.82 (s, 3H).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | (2-Chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=C(C=C1)OC)OC | C16H14ClN3O2
